datasets/RMG-dataset.csv
rxn,Ea
[C:0]1([H:9])([H:10])[C:1]([H:11])([H:12])[C:2]([H:13])([H:14])[C:3]2([H:15])[C:4]([H:16])([H:17])[C:5]([H:18])([H:19])[C:6]([H:20])([H:21])[C:7]2([H:22])[C:8]1([H:23])[H:24].[C:25]([c:26]1[c:27]([H:34])[c:28]([H:35])[c:29]([H:36])[c:30]([H:37])[c:31]1[H:38])([H:32])[H:33]>>[C:0]1([H:9])([H:10])[C:1]([H:11])([H:12])[C:2]([H:13])([H:14])[C:3]2([H:15])[C:4]([H:16])([H:17])[C:5]([H:19])[C:6]([H:20])([H:21])[C:7]2([H:22])[C:8]1([H:23])[H:24].[H:18][C:25]([c:26]1[c:27]([H:34])[c:28]([H:35])[c:29]([H:36])[c:30]([H:37])[c:31]1[H:38])([H:32])[H:33],61.5048
[C:0][H:1].[H:2]>>[C:0].[H:1][H:2],0.0
[C:0](#[C:1][C:2](=[S:3])[H:5])[H:4].[C:6]([C:7](=[C:8]([H:12])[H:13])[H:11])([H:9])[H:10]>>[C:0](#[C:1][C:2]=[S:3])[H:4].[H:5][C:6]([C:7](=[C:8]([H:12])[H:13])[H:11])([H:9])[H:10],184.473
[C:0]([C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([H:9])[H:10])([H:7])[H:8])([H:4])([H:5])[H:6].[C:14]([C:15]([C:16]([C:17]([O:18][O:19])([H:27])[H:28])([H:25])[H:26])([H:23])[H:24])([H:20])([H:21])[H:22]>>[C:0]([C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([H:9])[H:10])[H:8])([H:4])([H:5])[H:6].[H:7][O:19][O:18][C:17]([C:16]([C:15]([C:14]([H:20])([H:21])[H:22])([H:23])[H:24])([H:25])[H:26])([H:27])[H:28],74.0568
[N:0]([H:1])[H:2].[N:3][N:4]([H:5])[H:6]>>[N:0]([H:1])([H:2])[H:5].[N:3]=[N:4][H:6],-4.8116
[C:0]([C:1]([S:2][H:8])([H:6])[H:7])([H:3])([H:4])[H:5].[C:9]([C:10]([C:11]([H:16])([H:17])[H:18])[H:15])([H:12])([H:13])[H:14]>>[C:0]([C:1]([S:2][H:8])[H:7])([H:3])([H:4])[H:5].[H:6][C:10]([C:9]([H:12])([H:13])[H:14])([C:11]([H:16])([H:17])[H:18])[H:15],19.6648
[C:0]([C:1]([C:2]([C:3]([O:4][O:5])([H:15])[H:16])([H:13])[H:14])([C:6]([O:7][O:8][H:19])([H:17])[H:18])[H:12])([H:9])([H:10])[H:11]>>[C:0]([C:1]([C:2](=[C:3]([H:15])[H:16])[H:14])([C:6]([O:7][O:8][H:19])([H:17])[H:18])[H:12])([H:9])([H:10])[H:11].[O:4][O:5][H:13],118.8256
[C:0]([c:1]1[c:2]([H:12])[c:3]([H:13])[c:4]([C:5](=[O:6])[H:14])[c:7]([H:15])[c:8]1[H:16])([H:9])([H:10])[H:11].[O:17]>>[C:0]([c:1]1[c:2]([H:12])[c:3]([H:13])[c:4]([C:5](=[O:6])[H:14])[c:7]([H:15])[c:8]1[H:16])([H:10])[H:11].[H:9][O:17],10.64828
[C:0]([C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([H:12])[H:13])([H:10])[H:11])([H:8])[H:9])([H:5])([H:6])[H:7].[O:17]>>[C:0]([C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([H:12])[H:13])[H:11])([H:8])[H:9])([H:5])([H:6])[H:7].[H:10][O:17],21.7568
[C:0](=[C:1]([C:2](=[C:3]([C:4]([C:5]([C:6]([H:15])([H:16])[H:17])[H:14])([H:12])[H:13])[H:11])[H:10])[H:9])([H:7])[H:8]>>[C:0](=[C:1]([C:2]([C:3]1([H:11])[C:4]([H:12])([H:13])[C:5]1([C:6]([H:15])([H:16])[H:17])[H:14])[H:10])[H:9])([H:7])[H:8],24.309
[C:0]([C:1](=[O:2])[H:6])([H:3])([H:4])[H:5].[O:7][O:8][H:9]>>[C:0]([C:1](=[O:2])[H:6])([H:4])[H:5].[H:3][O:7][O:8][H:9],97.269632
[C:0](=[C:1]([C:2]([H:6])([H:7])[H:8])[H:5])([H:3])[H:4].[C:9]([C:10]([C:11]([H:21])([H:22])[H:23])[c:12]1[c:13]([H:24])[c:14]([H:25])[c:15]([H:26])[c:16]([H:27])[c:17]1[H:28])([H:18])([H:19])[H:20]>>[C:0]([C:1]([C:2]([H:6])([H:7])[H:8])([H:5])[C:10]([C:9]([H:18])([H:19])[H:20])([C:11]([H:21])([H:22])[H:23])[c:12]1[c:13]([H:24])[c:14]([H:25])[c:15]([H:26])[c:16]([H:27])[c:17]1[H:28])([H:3])[H:4],41.1706
[C:0](#[C:1][C:2](=[C:3]([H:6])[H:7])[H:5])[H:4].[C:8]([C:9]([C:10]([H:15])([H:16])[H:17])[C:11]([H:18])([H:19])[H:20])([H:12])([H:13])[H:14]>>[C:0](#[C:1][C:2]([C:3]([H:6])[H:7])([H:5])[C:9]([C:8]([H:12])([H:13])[H:14])([C:10]([H:15])([H:16])[H:17])[C:11]([H:18])([H:19])[H:20])[H:4],13.8909
[C:0]([C:1]([S:2][H:8])([H:6])[H:7])([H:3])([H:4])[H:5].[C:9]([H:10])([H:11])[H:12]>>[C:0]([C:1]([H:6])[H:7])([H:3])([H:4])[H:5].[S:2]([H:8])[C:9]([H:10])([H:11])[H:12],48.9528
[O:0]([O:1][C:2]([C:3]([C:4]([O:5][O:6][H:13])([H:11])[H:12])[H:10])([H:8])[H:9])[H:7]>>[O:0][H:7].[O:1]1[C:2]([H:8])([H:9])[C:3]1([C:4]([O:5][O:6][H:13])([H:11])[H:12])[H:10],47.2792
[C:0]([C:1]([O:2][O:3][H:9])([H:7])[H:8])([H:4])([H:5])[H:6].[H:10]>>[C:0]([C:1]([O:2])([H:7])[H:8])([H:4])([H:5])[H:6].[O:3]([H:9])[H:10],7.78224
[C:0](#[C:1][C:2]([C:3](=[C:4]([C:5]([C:6]([C:7]([H:17])([H:18])[H:19])=[C:8]([C:9]#[C:10][H:21])[H:20])([H:15])[H:16])[H:14])[H:13])[H:12])[H:11]>>[C:0](#[C:1][C:2]1([H:12])[C:3]([H:13])=[C:4]([H:14])[C:5]([H:15])([H:16])[C:6]([C:7]([H:17])([H:18])[H:19])[C:8]1([C:9]#[C:10][H:21])[H:20])[H:11],115.813
[C:0](=[C:1]=[C:2]([c:3]1[c:4]([H:12])[c:5]([H:13])[c:6]([H:14])[c:7]([H:15])[c:8]1[H:16])[H:11])([H:9])[H:10].[C:17]([H:18])([H:19])[H:20]>>[C:0](=[C:1][C:2]([c:3]1[c:4]([H:12])[c:5]([H:13])[c:6]([H:14])[c:7]([H:15])[c:8]1[H:16])([H:11])[C:17]([H:18])([H:19])[H:20])([H:9])[H:10],38.1162
[N:0](=[N:1][H:3])[H:2].[O:4]>>[H:2][O:4].[N:0]=[N:1][H:3],21.2673
[C:0]([C:1]([C:2]([C:3]1([H:16])[C:4]([H:17])([H:18])[C:5]([H:19])([H:20])[C:6]([H:21])([H:22])[C:7]([H:23])([H:24])[C:8]1([H:25])[H:26])([H:14])[H:15])([H:12])[H:13])([H:9])([H:10])[H:11]>>[C:0]([C:1]([C:2]([C:3](=[C:4]([C:5]([C:6]([C:7]([C:8]([H:17])([H:25])[H:26])([H:23])[H:24])([H:21])[H:22])([H:19])[H:20])[H:18])[H:16])([H:14])[H:15])([H:12])[H:13])([H:9])([H:10])[H:11],309.616
